US04959368
Ethanol (80 ml) and 2.64 g (40.0 mmoles) of 85% potassium hydroxide were added to 5.0 g (13.3 mmoles) of ethyl 2-(4-benzylpiperazino)-4-chloromethylpyrimidine-5-carboxylate (produced in accordance with Referential Example 41 of Japanese Laid-Open Patent Publication No. 140568/1986), and the mixture was refluxed for 30 minutes. Ethanol was evaporated under reduced pressure. The residue was dissolved in water, and adjusted to pH about 4 with concentrated hydrochloric acid. The crystals that formed were collected by filtration, and washed with acetone to give 1.93 g (yield 44%) of 2-(4-benzylpiperazino)-4-hydroxymethylpyrimidine-5-carboxylic acid as crystals.

reactant | potassium hydroxide | 40.0 mmoles, 2.64 g | [OH-].[K+]
reactant | ethyl 2-(4-benzylpiperazino)-4-chloromethylpyrimidine-5-carboxylate | 13.3 mmoles, 5.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)CCl)C(=O)OCC | C19H23ClN4O2
solvent | Ethanol | 80 ml | C(C)O | C2H6O
product | 2-(4-benzylpiperazino)-4-hydroxymethylpyrimidine-5-carboxylic acid | 1.93 g, yield 44% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)CO)C(=O)O | C17H20N4O3
